US05061726
A mixture of acetic acid (108 ml), acetic anhydride (0.58 ml) and 4-bromo-3-fluorotoluene (20 g) was cooled to -10° when concentrated sulphuric acid (22.5 mls) was added dropwise, such that the temperature did not exceed -5°. When the addition was complete, chromium trioxide (31.3 g) was added portionwise at such a rate that the temperature did not exceed 5°. The resulting mixture was stirred for 30 minutes and then poured onto ice (300 g). The reaction mixture was then extracted with diethyl ether and the combined ethereal extracts were washed with 2M sodium hydroxide and brine before drying over anhydrous magnesium sulphate and evaporation in vacuo. Recrystallisation from hexane gave 4-bromo-3-fluorobenzylidene diacetate (15 g).

reactant | acetic anhydride | 0.58 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-bromo-3-fluorotoluene | 20 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | sulphuric acid | 22.5 mls | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 108 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 31.3 g | [O-2].[O-2].[O-2].[Cr+6]
product | 4-bromo-3-fluorobenzylidene diacetate | 15 g | C(C)(=O)OC(C1=CC(=C(C=C1)Br)F)OC(C)=O | C11H10BrFO4
